US07470679B2
(S)-diethyl 2-((4-(acetoxymethyl)-3,7-dichloro-1H-indazol-5-yl)methyl)succinate
(S)-Diethyl 2-((4-(acetoxymethyl)-7-chloro-1H-indazol-5-yl)methyl)succinate (1.12 g, 2.73 mmol) was dissolved in N,N-dimethylformamide (30 ml). Mixture was warmed to 70° C. N-Chlorosuccinimide (400 mg, 3.00 mmol) was added to the solution. Mixture was warmed to 150° C. and held with stirring for 30 minutes. Mixture was cooled to room temperature and then diluted with ethyl acetate. Material was washed twice with 1N sodium thiosulfate and the aqueous phase was discarded. Material was washed successively with water and brine and the aqueous phases were discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as dark amber oil in quantitative yield. MS (M−H)−=443.0.

reactant | (S)-Diethyl 2-((4-(acetoxymethyl)-7-chloro-1H-indazol-5-yl)methyl)succinate | 2.73 mmol, 1.12 g | C(C)(=O)OCC1=C2C=NNC2=C(C=C1C[C@H](C(=O)OCC)CC(=O)OCC)Cl | C19H23ClN2O6
reactant | N-Chlorosuccinimide | 3.00 mmol, 400 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-diethyl 2-((4-(acetoxymethyl)-3,7-dichloro-1H-indazol-5-yl)methyl)succinate | quantitative yield | C(C)(=O)OCC1=C2C(=NNC2=C(C=C1C[C@H](C(=O)OCC)CC(=O)OCC)Cl)Cl | C19H22Cl2N2O6
